US06028096
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (6 g) in anhydrous tetrahydrofuran (50 ml) at -5° C. was added sodium hydride (1.07 g of a 60% dispersion in mineral oil). The mixture was stirred for 10 minutes then cooled to -70° C. n-Butyllithium (5.637 ml of a 2.5M solution in hexanes) was added dropwise at such a rate as to maintain the temperature below -65° C. After a further 30 minutes cuprous bromide dimethyl sulphide complex (2.765 g) was added and the mixture warmed to -30° C. over a period of 1.5 hours. It was then cooled to -65° C. and trifluoroacetic anhydride (5.68 ml) added dropwise at such a rate as to maintain the temperature below -65° C. The reaction mixture was then allowed to warm to room temperature over a period of 2 hours and saturated aqueous ammonium chloride solution (150 ml) added The mixture was extracted with ethyl acetate (100 ml, ×2). The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution (50 ml, ×2), dried and evaporated. The residue was purified by column chromatography on silica gel (400 g) eluted with hexane:dichloromethane (80:20) changing incrementally to dichloromethane and then, again incrementally to dichloromethane:ethyl acetate (50:50). Combination and evaporation of suitable fractions was followed by further purification by reverse phase high performance chromatography on C18 silica eluted with methanol:0.005M PIC B7 buffer (60:40). Appropriate fractions were combined and evaporated. Their residue was partitioned between ether and saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, dried and evaporated to give the title compound as a pale orange solid, m.p. 226° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 6 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydride | [H-].[Na+]
reactant | n-Butyllithium | C(CCC)[Li]
reactant | trifluoroacetic anhydride | 5.68 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoroacetylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C(C(F)(F)F)=O | C13H4Cl2F6N4O
